US05856326
Step C: 1-(4-Cyanobenzyl)-2-methylimidazole-5-carboxaldehyde
A solution of 4-bromo-1-(4-cyanobenzyl)-2-methylimidazole-5-carboxaldehyde (1.33 g, 4.37 mmol) and imidazole (0.600 g, 8.74 mmol) in 1:1 ethyl acetate-alcohol (150 mL) was stirred with 10% palladium on carbon (0.020 g) under 1 atm hydrogen. After 2 h, the reaction was filtered through celite and concentrated to give the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.62 (1H, s), 7.90 (1H, s), 7.81 (2H, d, J=8 Hz), 7.20 (2H, d, J=8 Hz), 5.64 (2H, s), 2.33 (3H, s).

reactant | 4-bromo-1-(4-cyanobenzyl)-2-methylimidazole-5-carboxaldehyde | 4.37 mmol, 1.33 g | BrC=1N=C(N(C1C=O)CC1=CC=C(C=C1)C#N)C | C13H10BrN3O
reactant | imidazole | 8.74 mmol, 0.600 g | N1C=NC=C1 | C3H4N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.020 g | [Pd] | Pd
product | 1-(4-Cyanobenzyl)-2-methylimidazole-5-carboxaldehyde | C(#N)C1=CC=C(CN2C(=NC=C2C=O)C)C=C1 | C13H11N3O
